Name:  ___         Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
rash, nosebleed  

 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
Mrs ___ is a pleasant ___ yo female with no PMH who presented 
to her PCP today with 2 days of rash, nose bleeding with blowing 
nose and mild cough with blood-streaked sputum. Pt was seen by 
her PCP who noted ___ over legs, ___, face and arms. She 
has also had easy bruising over the past few days with 
ecchymoses over her L leg. She denies any recent CP, URI sxs, 
SOB, CP, abd pain, N/V/D. No recent med changes or OTC meds 
other than ibuprofen. She did have some headaches and 
lightheadedness.  
.  
In the ED, admission vitals were 99 67 125/85 18 100% RA. Labs 
in the ED were notable for plts <5, previously 125 on ___. Exam 
notable for non blanching petechiae over torso, lower/upper 
extremity, face, ecchymoses over L lower leg, no signs 
hemearthroses.  
She was started on 60 mg prednisone.  
.  
On arrival to the floor, pt is comfortable with no complains 
other than feeling tired.  

 
Past Medical History:
MEDICAL & SURGICAL HISTORY:  
c-section  
s/p hysterectomy  

 
Social History:
___
___:
father killed in a car accident, mother has  
diabetes, HTN, heart surgery. Sister with DM, htn  

 
Physical Exam:
On discharge 
Vtitals: 96.6, 111/58, P-57, RR-20, 99% RA 
GENERAL: Well-appearing woman in NAD, comfortable, appropriate.  

HEENT: NC/AT, PERRLA, EOMI, sclerae anicteric, MMM, OP clear.One 
ulcer on the inside of each cheek b/l,3-5 mm, nonbleeding. 
Mucosal ___. Dark 5mm black lesion on left cheek.  
NECK: Supple, no thyromegaly, no JVD, no carotid bruits.  
LUNGS: CTA bilat, no r/rh/wh, good air movement, resp unlabored. 
 
HEART: RRR, no MRG, nl S1-S2.  
ABDOMEN: Soft/NT/ND, no masses or HSM, no rebound/guarding.  No 
spleen palpated, difficult due to body habitus
EXTREMITIES: WWP, no c/c/e, 2+ peripheral pulses.  
SKIN: Diffuse ___ over face, chest, legs, arms. Ecchymoses 
on LL leg.  
LYMPH: No cervical LAD.  
NEURO: Awake, A&Ox3, CNs II-XII intact, moves all extremities 
freely.  

 
Pertinent Results:
Admission Labs 
___ 08:07PM URINE  HOURS-RANDOM
___ 08:07PM URINE  UCG-NEGATIVE
___ 06:47PM   GLUCOSE-110* K+-3.5
___ 06:20PM   GLUCOSE-116* UREA N-13 CREAT-0.6 SODIUM-141 
POTASSIUM-3.4 CHLORIDE-103 TOTAL CO2-32 ANION GAP-9
___ 06:20PM   estGFR-Using this
___ 06:20PM   ALT(SGPT)-20 AST(SGOT)-23 LD(LDH)-205 TOT 
BILI-0.3
___ 06:20PM   HAPTOGLOB-130
___ 06:20PM   WBC-5.8 RBC-4.06* HGB-11.1* HCT-33.3* MCV-82 
MCH-27.3 MCHC-33.2 RDW-14.0
___ 06:20PM   NEUTS-47.6* LYMPHS-46.3* MONOS-4.0 EOS-1.4 
BASOS-0.7
___ 06:20PM   I-HOS-DONE
___ 06:20PM   PLT SMR-RARE PLT COUNT-<5
___ 06:20PM   ___ PTT-24.5 ___
___ 06:20PM URINE  COLOR-Yellow APPEAR-Clear SP ___
___ 06:20PM URINE  BLOOD-SM  NITRITE-NEG PROTEIN-TR 
GLUCOSE-NEG KETONE-NEG BILIRUBIN-NEG UROBILNGN-NEG PH-5.5 
LEUK-SM 
___ 06:20PM URINE  RBC-2 WBC-4 BACTERIA-NONE YEAST-NONE 
EPI-2
___ 06:20PM URINE  MUCOUS-RARE
.
Discharge Labs 

___ 07:40AM BLOOD WBC-10.2 RBC-4.03* Hgb-11.1* Hct-33.2* 
MCV-83 MCH-27.4 MCHC-33.2 RDW-14.5 Plt Ct-50*#
___ 07:55AM BLOOD WBC-11.0 RBC-3.97* Hgb-10.8* Hct-32.9* 
MCV-83 MCH-27.2 MCHC-32.9 RDW-14.1 Plt Ct-23*
___ 04:15AM BLOOD Neuts-53.3 Lymphs-42.8* Monos-3.2 Eos-0.1 
Baso-0.5
___ 07:40AM BLOOD Plt Ct-50*#
___ 07:55AM BLOOD Plt Ct-23*
___ 11:35AM BLOOD Plt Ct-31*#
___ 07:20AM BLOOD Plt Ct-<5*
___ 04:15AM BLOOD Plt Smr-RARE Plt Ct-5*#
___ 07:59AM BLOOD Plt Smr-RARE Plt Ct-<5
___ 06:20PM BLOOD Plt Smr-RARE Plt Ct-<5
___ 07:59AM BLOOD ___
___ 04:15AM BLOOD Glucose-110* UreaN-16 Creat-0.6 Na-140 
K-3.6 Cl-103 HCO3-32 AnGap-9
___ 07:59AM BLOOD Glucose-166* UreaN-10 Creat-0.6 Na-138 
K-4.0 Cl-102 HCO3-29 AnGap-11
___ 06:20PM BLOOD ALT-20 AST-23 LD(LDH)-205 TotBili-0.3
___ 04:15AM BLOOD Calcium-9.3 Phos-3.9 Mg-1.9
___ 06:20PM BLOOD Hapto-130
___ 06:47PM BLOOD Glucose-110* K-3.5
.
Reports 
CXR 
Low lung volumes. Repeat radiograph with improved inspiratory 
level may be helpful to differentiate crowding of 
bronchovascular structures from early foci of infection.  
.
EKG
Sinus rhythm. Modest precordial lead T wave changes are 
non-specific. Since the previous tracing of ___ precordial 
lead T wave changes appear slightly more prominent but may be no 
significant change. 
.
URINE CULTURE (Final ___: 
      MIXED BACTERIAL FLORA ( >= 3 COLONY TYPES), CONSISTENT 
WITH SKIN
      AND/OR GENITAL CONTAMINATION.
 
Brief Hospital Course:
___ yo woman with no PMH, admitted for rash, plts< 5 concerning 
for ITP.  
.  
# Thrombocytopenia: most likely ITP. Smear was not consistent 
with TTP given no schistocytes, or DIC (fibrinogen is normal), 
labs not consistent with DIC. There was no clear etiology given 
no new meds and no recent viral illness.Was placed on oral 
steroids which increased her platelet count to 50.Was 
hemodynamically stable but did  have ___ episodes of bright red 
urine and clots with no dysuria or pain. This hematuria resolved 
with 1 unit of platelets and she was urinating yellow urine on 
the day of discharge.She was discharged on steroids with close 
outpatient follow up
.  
# Cough: CXR unremarkable. Pt stated no worse than usual. 
Complained of no significant cough or dyspnea during the 
admission
.
Outpatient follow up 
-The patient had hematuria in the setting of thrombocytopenia, 
if this recurs consider further workup such as renal/bladder 
ultrasound to rule out other causes like cysts or carcinoma.
.  
.  

 
Medications on Admission:
-citalopram 20 mg daily-pt not taking  
-advil
 
Discharge Medications:
1. prednisone 20 mg Tablet Sig: Three (3) Tablet PO DAILY 
(Daily) for 12 days.
Disp:*36 Tablet(s)* Refills:*0*
2. Outpatient Lab Work
Please Draw CBC on ___

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Primary Diagonsis:
1)ITP

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear ___,

You were admitted to our hospital for a concern of low platelets 
and blood in your urine. You were found to have low platelets 
and were started on a medicine to treat this condition. Your 
platelets have improved. 

The following changes were made to your medications:
START PREDNISONE  daily take this for 2 weeks unless told to 
stop by your primary care provider. 

You will need to give blood to check your platelets. Please do 
so at ___ facility on ___.

Please call Hematology services here ___ on ___ 
___ to set up follow - up appointment to discuss your 
platelets, as well as prednisone dosing. 
 
Followup Instructions:
___